US07495103B2
To magnetically stirred TFA (1600 mL) was added at 0° C. sodium borohydride (64 g, 1.69 mol) over 1 h. To this mixture was added dropwise a solution of 1-(1-benzenesulfonyl-2,3-dihydro-1H-indol-5-yl)-ethanone (40 g, 0.13 mol) in TFA (700 mL) over 1 h. The mixture was stirred overnight at 25° C., diluted with H2O (1600 ml), and basified with sodium hydroxide pellets at 0° C. The organic layer was separated and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to give 1-benzenesulfonyl-5-ethyl-2,3-dihydro-1H-indole (16.2 g, 43%).

reactant | sodium borohydride | 1.69 mol, 64 g | [BH4-].[Na+]
reactant | 1-(1-benzenesulfonyl-2,3-dihydro-1H-indol-5-yl)-ethanone | 0.13 mol, 40 g | C1(=CC=CC=C1)S(=O)(=O)N1CCC2=CC(=CC=C12)C(C)=O | C16H15NO3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | TFA | 700 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | 1600 ml | O | H2O
solvent | TFA | 1600 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-benzenesulfonyl-5-ethyl-2,3-dihydro-1H-indole | 16.2 g, 43% | C1(=CC=CC=C1)S(=O)(=O)N1CCC2=CC(=CC=C12)CC | C16H17NO2S
